US04931436
9-Chloro-11-[[4-[4-(diethylamino)butyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 4 from 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one and 4-[4-(diethylamino)butyl]piperidine in a yield of 38% of theory. Colourless crystals, m.p. 126°-127° C.

reactant | 9-chloro-11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one | ClC1=CC2=C(C(NC3=C(N2C(=O)Cl)N=CC=C3)=O)C=C1 | C13H7Cl2N3O2
reactant | 4-[4-(diethylamino)butyl]piperidine | C(C)N(CCCCC1CCNCC1)CC | C13H28N2
product | 9-Chloro-11-[[4-[4-(diethylamino)butyl]-1-piperidinyl]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 38% | ClC1=CC2=C(C(NC3=C(N2C(=O)N2CCC(CC2)CCCCN(CC)CC)N=CC=C3)=O)C=C1 | C26H34ClN5O2
